US07138421B2
1a) 8-Bromooctan-1-ol
25 g of octane-1,8-diol was boiled in 250 ml of cyclohexane with 22.6 ml of 47% aqueous hydrobromic acid for six hours in a water separator. The reaction mixture was then poured onto saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic phase was washed with saturated, aqueous sodium chloride solution, dried on sodium sulfate, filtered and concentrated by evaporation in a vacuum. Column chromatography on silica gel with a mixture that consists of hexane/ethyl acetate yielded 21.6 g of the title compound as a yellowish oil.

reactant | octane-1,8-diol | 25 g | C(CCCCCCCO)O | C8H18O2
reactant | hydrobromic acid | 22.6 ml | Br | BrH
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | cyclohexane | 250 ml | C1CCCCC1 | C6H12
product | 8-Bromooctan-1-ol | 21.6 g | BrCCCCCCCCO | C8H17BrO
